Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
NSAIDS (Non-Steroidal ___ Drug)
 
Attending: ___.
 
Chief Complaint:
Fall
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ year old woman with a PMHx of hypertension who 
was thrown off her horse on ___. She was wearing a helmet 
during this accident. She fell onto her left side and stroked 
her head, left shoulder and left hand. She felt ___ pain in 
her chest, left shoulder and left hand. She does not report any 
loss of consciousness. Of note she has some numbness and 
dysesthesias in her right forearm and right ___ digits. She 
denies focal weakness. She denies having any tingling, numbness, 
or weakness in her left upper extremity. She denies any 
headaches, nausea, or vomiting. She denies abdominal pain. She 
was initially  transferred to an OSH where a head CT was 
negative. A CT C spine revealed a right C7 pedicle fracture and 
a CT chest revealed a left posterior ___ and 4th rib fractures 
as well as a clavicular fracture. An X-ray of her left hand 
revealed a scaphoid fracture. She was transferred to ___ in 
stable condition. 

 
Past Medical History:
Anxiety
Depression
Asthma
Hypertension
Migraines
 
Social History:
___
Family History:
Noncontributory
 
Physical Exam:
Vitals: T98.4 BP 139 / 83 HR 106RR18%O2 94RA
General: Well-appearing female lying flat with cervical collar 
in place. Alert and oriented, answering questions
appropriately. 
HEENT: No focal findings. No ecchymosis. PEERLA. No tongue 
deviation. Tympanic membranes WNL. 
Resp: Normal respiratory effort on room air. Lungs are CTAB
CV: Regular rate and rhythm by peripheral palpation. No murmurs, 
no gallops. Normal S1/S2
Abdomen: Nontender, non distended, soft. No rebound. No guarding
Left Upper Extremity: There is mild edema overlying the clavicle 
with slight deformity.No open wounds.
There is clavicular pain with range of motion at the 
shoulder.Sensation is intact to light touch in the Ax/M/R/U 
nervedistributions. The forearm/wrist is placed in a volar 
resting splint.
Patient able to wiggle fingers, but is limited by the splint. 
Fingers warm and well perfused.
Right upper extremity: some dysesthesias along the length of her 
arm. No focal weakness. No specific focal findings
Skin: No other areas of ecchymoses found on exam. 
 
Pertinent Results:
___ 11:45PM   GLUCOSE-111* UREA N-18 CREAT-0.9 SODIUM-137 
POTASSIUM-4.0 CHLORIDE-100 TOTAL CO2-22 ANION GAP-15
___ 11:45PM   estGFR-Using this
___ 11:45PM   WBC-16.6* RBC-4.38 HGB-12.9 HCT-40.1 MCV-92 
MCH-29.5 MCHC-32.2 RDW-12.4 RDWSD-41.1
___ 11:45PM   NEUTS-75.9* LYMPHS-16.3* MONOS-6.3 EOS-0.6* 
BASOS-0.4 IM ___ AbsNeut-12.61* AbsLymp-2.70 AbsMono-1.05* 
AbsEos-0.10 AbsBaso-0.06
___ 11:45PM   PLT COUNT-186
 
Brief Hospital Course:
Ms. ___ presented to us as a transfer with the following 
documented injuries: R C7 pedicle fracture, L posterior ___ 
rib fracture, L clavicle fracture and L scaphoid fractures. No 
new injuries were discovered upon further examination. She was 
admitted to the Acute Care Surgery service for pain management 
and consultations were placed with Orthopedics and Neurosurgery. 
Given her focal paresthesias on her right arm there was concern 
for spinal cord compression. An MRI of her C spine was done on 
HOD1 and did not reveal any spinal cord compression. 
Neurosurgery recommended a C-collar to be worn at all times 
until a follow up appointment with them in 2 weeks. Orthopedics 
also evaluated this patient for her minimally displaced oblique 
middle third left clavicle fracture. They recommended 
non-operative treatment with sling immobilization and non-weight 
bearing. Follow up was scheduled with them in 2 weeks. No other 
acute interventions were recommended. OT was also consulted and 
evaluated the patient on HOD1. They recommended discharge to 
home with outpatient OT. On HOD2 the patient's pain was well 
controlled on oral pain medications. She was tolerating a 
regular diet and was passing gas. A tertiary survey was 
completed with no new findings. She was deemed ready for 
discharge by the main acute care surgery teams. All follow ups 
were scheduled per recommendations of consulting teams. The 
patient was sent home in stable condition. 

 
Medications on Admission:
CITALOPRAM TAB 20MG 
DULERA AER 100-5MCG 
HYDROCHLOROT TAB 12.5MG 
LORAZEPAM TAB 0.5MG 
PROAIR HFA AER 
PROMETHAZINE TAB 25MG 
SPIRONOLACT TAB 50MG 
SUMATRIPTAN TAB 100MG 
 
Discharge Medications:
1.  Acetaminophen ___ mg PO Q6H:PRN Pain - Mild 
RX *acetaminophen 500 mg 2 tablet(s) by mouth Q6H:PRN Disp #*50 
Tablet Refills:*0 
2.  OxyCODONE (Immediate Release) 7.5 mg PO Q4H:PRN Pain - 
Moderate 
RX *oxycodone 10 mg 1 tablet(s) by mouth Q6H:PRN Disp #*30 
Tablet Refills:*0 
3.Outpatient Occupational Therapy
ICD 10: S62.001A
Recommendations: 
- P/AAROM all extremities daily
- Encourage participation in ADLs
- OOB with assist of 1 / 2 and use of AD
- OOB to chair with overhead lift  
- Elevate L/ R UE on pillows at all times to prevent 
subluxation,
encourage attention to participation of UE in activities
- Strict delirium prevention protocol as outlined below

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Right C7 Pedicle fracture
Left posterior ___ rib fractures
Left clavicle fractures
Left wrist fracture

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the ___ 
after you fell off your horse. On trauma evaluation you were 
found to have suffered a fracture of one of your cervical 
vertebrae, a ___ and 4th rib fracture, a clavicular (collar 
bone) fracture and a hand/wrist fracture. You were seen by 
orthopedic surgery who  recommended that you do not bear weight 
on your left shoulder while your collar bone fracture heals.  
You should wear a shoulder sling and a wrist splint for comfort 
while your injuries heal. Please followup with them on an 
outpatient basis within ___ weeks (see below for specific 
information). Neurosurgery was also consulted and recommended  
that you wear a cervical collar at all times. You may remove it 
briefly for skin care or showering. Please see them in 2 weeks 
as an outpatient (see below for appointment information). 
Finally, occupational therapy was also able to evaluate you  and 
gave you specific recommendations. On hospital day ___ your pain 
was well controlled on oral pain medications and all consultants 
agreed that you are ready for discharge to home. You are 
recovering well and are now ready for discharge. Please follow 
the instructions below to continue your recovery:

RIB FRACTURES:
* Your injury caused ___ and 4th rib fractures which can cause 
severe pain and subsequently cause you to take shallow breaths 
because of the pain.
 
* You should take your pain medication as directed to stay ahead 
of the pain otherwise you won't be able to take deep breaths. If 
the pain medication is too sedating take half the dose and 
notify your physician.
 
* Pneumonia is a complication of rib fractures.  In order to 
decrease your risk you must use your incentive spirometer 4 
times every hour while awake.  This will help expand the small 
airways in your lungs and assist in coughing up secretions that 
pool in the lungs.
 
* You will be more comfortable if you use a cough pillow to hold 
against your chest and guard your rib cage while coughing and 
deep breathing.
 
* Symptomatic relief with ice packs or heating pads for short 
periods may ease the pain.
 
* Narcotic pain medication can cause constipation therefore you 
should take a stool softener twice daily and increase your fluid 
and fiber intake if possible.
 
* Do NOT smoke
 
* If your doctor allows, non-steroidal ___ drugs 
are very effective in controlling pain ( ie, Ibuprofen, Motrin, 
Advil, Aleve, Naprosyn) but they have their own set of side 
effects so make sure your doctor approves.
* Return to the Emergency Room right away for any acute 
shortness of breath, increased pain or crackling sensation 
around your ribs (crepitus).
Please call your doctor or nurse practitioner or return to the 
Emergency Department for any of the following:
*You experience new chest pain, pressure, squeezing or 
tightness.
*New or worsening cough, shortness of breath, or wheeze.
*If you are vomiting and cannot keep down fluids or your 
medications.
*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.
*You see blood or dark/black material when you vomit or have a 
bowel movement.
*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.
*Your pain in not improving within ___ hours or is not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or changes location or moving to your chest or 
back.
*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.
*Any change in your symptoms, or any new symptoms that concern 
you.

Please resume all regular home medications, unless specifically 
advised not to take a particular medication. Also, please take 
any new medications as prescribed.

Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids. Avoid lifting 
weights greater than ___ lbs until you follow-up with your 
surgeon.
Avoid driving or operating heavy machinery while taking pain 
medications.

 

 
Followup Instructions:
___